US07678820B2
To a mixed solution of 5-[3-(1H-benzimidazol-6-yl)-1,2,4-oxadiazol-5-yl]-2-(2,2,2-trifluoro-1-methylethoxy)benzaldehyde (83 mg), potassium dihydrogen phosphate (421 mg), and 2-methyl-2-butene (0.5 ml) in tBuOH (2 ml) and water (0.5 ml) was added sodium chlorite (187 mg) at room temperature. The mixed reaction solution was stirred at room temperature for 3 hours, followed by dilution with water (10 ml), and extraction with EtOAc (20 ml). The organic layer was washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated. To a solution of the residue in dioxane was added a 4 N HCl-dioxane solution, followed by concentration. The resulting powder was recrystallized with IPA (10 ml) to obtain 5-[3-(1H-benzimidazol-5-yl)-1,2,4-oxadiazol-5-yl]-2-(2,2,2-trifluoro-1-methylethoxy)benzoic acid hydrochloride (80 mg) as white powders.

reactant | 5-[3-(1H-benzimidazol-6-yl)-1,2,4-oxadiazol-5-yl]-2-(2,2,2-trifluoro-1-methylethoxy)benzaldehyde | 83 mg | N1C=NC2=C1C=C(C=C2)C2=NOC(=N2)C=2C=CC(=C(C=O)C2)OC(C(F)(F)F)C | C19H13F3N4O3
reactant | potassium dihydrogen phosphate | 421 mg | P(=O)(O)(O)[O-].[K+]
reactant | 2-methyl-2-butene | 0.5 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 187 mg | Cl(=O)[O-].[Na+]
solvent | tBuOH | 2 ml | CC(C)(C)O | C4H10O
solvent | water | 0.5 ml | O | H2O
product | 5-[3-(1H-benzimidazol-5-yl)-1,2,4-oxadiazol-5-yl]-2-(2,2,2-trifluoro-1-methylethoxy)benzoic acid hydrochloride | 80 mg | Cl.N1C=NC2=C1C=CC(=C2)C2=NOC(=N2)C=2C=CC(=C(C(=O)O)C2)OC(C(F)(F)F)C | InChI=1S/C19H13F3N4O4.ClH/c1-9(19(20,21)22)29-15-5-3-11(6-12(15)18(27)28)17-25-16(26-30-17)10-2-4-13-14(7-10)24-8-23-13;/h2-9H,1H3,(H,23,24)(H,27,28);1H
